US05128355
Preparation of 1-[(3'-Trimethylacetoxymethoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole
To a solution of 1.25 g of 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole in 10 mL of dimethylformamide at 25° was added 0.17 g of sodium methoxide followed after 5 minutes by 0.45 g of chloromethyl trimethylacetate. The mixture was stirred at 25° for 4 days. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. This solution was washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography on silica gel afforded 1.38 g of the product as a glassy solid. NMR (200 MHz, CDCl3) δ 7.87 (d, 1H); 7.54 (t, 1H); 7.43 (t, 1H); 7.29 (d, 1H); 7.11 (A2B2, 4H); 5.72 (s, 2H); 5.24 (s, 2H); 4.5 (s, 2H); 2.61 (t, 2H); 2.06 (br s, 1H); 1.68 (quint., 2H); 1.36 (sext., 2H); 1.17 (s, 9H); 0.88 (t, 3H).

reactant | 1-[(3'-carboxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 1.25 g | C(=O)(O)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C22H23ClN2O3
reactant | sodium methoxide | 0.17 g | C[O-].[Na+]
reactant | chloromethyl trimethylacetate | 0.45 g | CC(C(=O)OCCl)(C)C | C6H11ClO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(3'-Trimethylacetoxymethoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 1.38 g | CC(C(=O)OCOC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC)(C)C | C28H33ClN2O5
